* Subcircuit ua741
.subckt ua741 net-_ein1-pad3_ net-_ein1-pad4_ net-_rout1-pad1_ 
* /home/manpa/downloads/esim-2.1/library/subcircuitlibrary/ua741/ua741.cir
rout1  net-_rout1-pad1_ net-_eout1-pad1_ 75
eout1  net-_eout1-pad1_ gnd net-_cbw1-pad1_ gnd 1
cbw1  net-_cbw1-pad1_ gnd 31.85e-9
rbw1  net-_cbw1-pad1_ net-_ein1-pad1_ 0.5e6
ein1  net-_ein1-pad1_ gnd net-_ein1-pad3_ net-_ein1-pad4_ 100e3
rin1  net-_ein1-pad3_ net-_ein1-pad4_ 2e6
* Control Statements

.ends ua741