* /home/manpa/esim-workspace/ia_model/ia_model.cir

.include ua741.sub
.include PNP.lib
.include NPN.lib
q1 vdd net-_q1-pad2_ net-_q1-pad3_ Q2N2907A
q3 vdd net-_q1-pad2_ net-_c1-pad1_ Q2N2907A
q2 net-_q2-pad1_ net-_q2-pad2_ gnd Q2N2222
q4 net-_q4-pad1_ net-_q4-pad1_ net-_q4-pad3_ Q2N2222
q5 net-_q4-pad3_ net-_q4-pad3_ gnd Q2N2222
c1  net-_c1-pad1_ out 232f
* u1  in1 in2 out port
x2 net-_q1-pad3_ in1 net-_q1-pad2_ ua741
x1 net-_q2-pad1_ in2 net-_q2-pad2_ ua741
x3 net-_q4-pad1_ net-_c1-pad1_ out ua741
* u2  in1 plot_v1
* u3  in2 plot_v1
* u4  out plot_v1
v2  in1 gnd sine(0 1.5mv 100 0 0)
v1  in2 gnd sine(0 2mv 100 0 0)
v3 vdd gnd  dc 5
r1  net-_q1-pad3_ net-_q2-pad1_ 2.5k
r2  net-_q4-pad1_ vdd 46k
r3  net-_c1-pad1_ out 250k
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out)
.endc
.end
