* /home/manpa/downloads/esim-2.1/library/subcircuitlibrary/ua741/ua741.cir

* u1  net-_ein1-pad3_ net-_ein1-pad4_ net-_rout1-pad1_ port
rout1  net-_rout1-pad1_ net-_eout1-pad1_ 75
eout1  net-_eout1-pad1_ gnd net-_cbw1-pad1_ gnd 1
cbw1  net-_cbw1-pad1_ gnd 31.85e-9
rbw1  net-_cbw1-pad1_ net-_ein1-pad1_ 0.5e6
ein1  net-_ein1-pad1_ gnd net-_ein1-pad3_ net-_ein1-pad4_ 100e3
rin1  net-_ein1-pad3_ net-_ein1-pad4_ 2e6
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
